US08236835B2
Synthesis of N-benzyl-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide
To a solution of N-benzyl-2-(4-bromobutanamido)-4-methylthiazole-5-carboxamide (1.80 g, 4.54 mmol) in acetone (50 mL) and water (5 mL) was added potassium carbonate (1.50 g, 10.8 mmol) at ambient temperature. The resulting reaction mixture was stirred at ambient temperature for 2 hours. The solvent was removed in vacuo, and the residue was washed with water and t-butyl methyl ether to yield the title compound in 78% yield (1.12 g): mp 222-224° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.60 (t, J=6.0 Hz, 1H), 7.33-7.16 (m, 5H), 4.35 (d, J=6.0 Hz, 2H), 3.97 (t, J=7.2 Hz, 2H), 2.59 (t, J=7.8 Hz, 2H), 2.46 (s, 3H), 2.14-1.94 (m, 2H); MS (ES+) m/z 316.4 (M+1).

reactant | N-benzyl-2-(4-bromobutanamido)-4-methylthiazole-5-carboxamide | 4.54 mmol, 1.80 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(CCCBr)=O)C | C16H18BrN3O2S
reactant | potassium carbonate | 10.8 mmol, 1.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | water | 5 mL | O | H2O
product | N-benzyl-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide | 78% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(CCC1)=O)C | C16H17N3O2S
